US07345178B2
Preparation of 4-[2-(2-Amino-phenyl)-imidazo[1,2-a]pyridin-3-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester
To 3-Chloromethyl-2-(2-nitro-phenyl)-imidazo[1,2-a]pyridine (298 mg, 0.92 mmol) suspended in CH2Cl2 (15 ml) cooled to 0° C. was added dropwise triethylamine (279 mg, 3 eq), followed by 1-Boc-piperazine (1.3 eq, 221 mg) in two portions over a 24 hour period. The reaction mixture was concentrated to dryness and purified by chromatography using a 9:1 mixture of CH2Cl2 to MeOH. The fractions were concentrated, dissolved in Ethanol (20 ml), and stirred over H2 atmosphere with 10% Pd/C (10 mg) for 48 hours. The reaction mixture was filtered through Celite and concentrated, and dried under high vacuum to obtain 250 mg of the desired product. (MS, M++H=408.2)

reactant | 3-Chloromethyl-2-(2-nitro-phenyl)-imidazo[1,2-a]pyridine | 0.92 mmol, 298 mg | ClCC1=C(N=C2N1C=CC=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C14H10ClN3O2
reactant | triethylamine | 279 mg, 3 eq | C(C)N(CC)CC | C6H15N
reactant | 1-Boc-piperazine | 221 mg, 1.3 eq | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-Amino-phenyl)-imidazo[1,2-a]pyridin-3-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(N=C2N1C=CC=C2)C2=C(C=CC=C2)N | C23H29N5O2
